US05424333
To a stirred suspension of t-butylhydrazine hydrochloride (2.0 g, 0.016M) in toluene (30 ml) was added 50% sodium hydroxide (1.3 g, 0.016M). After 15 minutes, the mixture was cooled to 5° C. and cyclohexanecarbonylchloride (2.4 g, 0.016M) and 50% sodium hydroxide (1.3 g, 0.016M) were added separately and simultaneously so as to maintain the reaction temperature below 10° C. After the addition, the reaction mixture was allowed to warm to room temperature and stirred for 1 hour. The mixture was diluted with hexane and the solid product isolated by filtration. This product (1.5 g, 0.008M) was dissolved in a stirred mixture of toluene (30 ml) and cooled on ice. To this mixture was added benzoylchloride (1.1 g, 0.008M) and 50% sodium hydroxide (0.6 g, 0.008M) simultaneously. After addition, the mixture was stirred for 1/2 hour, diluted with hexane and the solid product, N'-t-butyl-N-cyclohexylcarbonyl-N'-benzoylhydrazine, isolated by filtration.

reactant | t-butylhydrazine hydrochloride | 0.016M, 2.0 g | Cl.C(C)(C)(C)NN
reactant | sodium hydroxide | 0.016M, 1.3 g | [OH-].[Na+]
reactant | cyclohexanecarbonylchloride | 0.016M, 2.4 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | sodium hydroxide | 0.016M, 1.3 g | [OH-].[Na+]
reactant | benzoylchloride | 0.008M, 1.1 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydroxide | 0.008M, 0.6 g | [OH-].[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N'-t-butyl-N-cyclohexylcarbonyl-N'-benzoylhydrazine | C(C)(C)(C)N(NC(=O)C1CCCCC1)C(C1=CC=CC=C1)=O | C18H26N2O2
